US05994375
To a solution of 4-[N-methyl-N-(1-ethoxycarbonyl-1-methylethyl)amino]-2,3,5,6-tetrafluoropyridine (2.2 g, 6.6 mmol) in acetonitrile (60 mL) was added 2-benzyloxy-5-cyanophenol (1.5 g, 6.6 mmol) and cesium carbonate (2.8 g, 8.6 mmol). The resultant mixture was stirred at 40° C. for 2 days. The mixture was then cooled to ambient temperature and poured into 200 mL of 0.5 M aqueous KOH solution and 200 mL of ethyl acetate. The aqueous layer was separated and extracted with another 100 mL of ethyl acetate. The combined organic extracts were washed with 0.5 M aqueous KOH solution (200 mL) then brine (200 mL), dried over MgSO4, filtered, and concentrated in vacuo to afford a yellow oil which solidified upon standing. Recrystallization from 30% ethyl acetate/hexanes afforded 2.4 g (68% yield) of 4-benzyloxy-3-[(4-(N-methyl-N-(1-ethoxycarbonyl-1-methylethyl)amino)-3,5,6-trifluoropyridin-2-yl)oxy]benzonitrile as a white, crystalline solid: NMR (CDCl3) 7.6-7.1 (m, 8), 5.2 (s, 2), 4.2 (q, 2), 3.1 (s, 3), 1.6 (s, 6), 1.3 (t, 3) ppm.

reactant | 4-[N-methyl-N-(1-ethoxycarbonyl-1-methylethyl)amino]-2,3,5,6-tetrafluoropyridine | 6.6 mmol, 2.2 g | CN(C(C)(C)C(=O)OCC)C1=C(C(=NC(=C1F)F)F)F | C12H14F4N2O2
reactant | 2-benzyloxy-5-cyanophenol | 6.6 mmol, 1.5 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C#N)O | C14H11NO2
reactant | cesium carbonate | 8.6 mmol, 2.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | KOH | 0.5 M, 200 mL | [OH-].[K+]
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 4-benzyloxy-3-[(4-(N-methyl-N-(1-ethoxycarbonyl-1-methylethyl)amino)-3,5,6-trifluoropyridin-2-yl)oxy]benzonitrile | 2.4 g, 68% yield | C(C1=CC=CC=C1)OC1=C(C=C(C#N)C=C1)OC1=NC(=C(C(=C1F)N(C(C)(C)C(=O)OCC)C)F)F | C26H24F3N3O4
